US06114325
[2-(Hydroxymethyl)phenyl]-N-methyl-N-octadecylformamide is reacted with 1-bromo-4-chlorobutane in acetone in the presence of potassium carbonate at the reflux temperature of the solvent to obtain [2-(4-chlorobutoxymethyl)phenyl]-N-methyl-N-octadecylformamide.

reactant | [2-(Hydroxymethyl)phenyl]-N-methyl-N-octadecylformamide | OCC1=C(C=CC=C1)C(=O)N(CCCCCCCCCCCCCCCCCC)C | C27H47NO2
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | [2-(4-chlorobutoxymethyl)phenyl]-N-methyl-N-octadecylformamide | ClCCCCOCC1=C(C=CC=C1)C(=O)N(CCCCCCCCCCCCCCCCCC)C | C31H54ClNO2
